US05616579
N-[5-(4-Piperidinomethyl-2-pyridyloxy)pentyl]pyrazole-4-carboxamide
Following a procedure similar to that described in Example 64, but using 5-(4-piperidinomethyl-2-pyridyloxy)pentylamine and 4-pyrazolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a white powder, melting at 105°-106° C., in a yield.

reactant | 5-(4-piperidinomethyl-2-pyridyloxy)pentylamine | N1(CCCCC1)CC1=CC(=NC=C1)OCCCCCN | C16H27N3O
reactant | 4-pyrazolecarboxylic acid | N1N=CC(=C1)C(=O)O | C4H4N2O2
product | N-[5-(4-Piperidinomethyl-2-pyridyloxy)pentyl]pyrazole-4-carboxamide | N1(CCCCC1)CC1=CC(=NC=C1)OCCCCCNC(=O)C=1C=NNC1 | C20H29N5O2
